US07125865B2
Pyrrolidine-2,5-dione (17 mg, 0.172 mmol) and 7-propyl-3-neopentyl-6-(3-bromopropyloxy)-1,2-benzisoxazole, from Example 9 above, (42 mg, 0.114 mmol) were combined in DMF (7 ml) with Cs2CO3 (56 mg, 0.17 mmol) at room temperature. The mixture was stirred 18 hours. The mixture was diluted with 2 ml H2O and acidified with TFA. The resulting mixture was purified by elution from a RP-18 reversed phase HPLC column with a 90:10 to 0:100 H2O:CH3CN gradient to yield 1-(3-{[7-propyl-3-(neopentyl)-1,2-benzisoxazol-6-yl]oxy}propyl)pyrrolidine-2,5-dione.

reactant | Pyrrolidine-2,5-dione | 0.172 mmol, 17 mg | N1C(CCC1=O)=O | C4H5NO2
reactant | 7-propyl-3-neopentyl-6-(3-bromopropyloxy)-1,2-benzisoxazole | C(CC)C1=C(C=CC=2C(=NOC21)CC(C)(C)C)OCCCBr | C18H26BrNO2
reactant | Cs2CO3 | 0.17 mmol, 56 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | H2O | 2 ml | O | H2O
product | 1-(3-{[7-propyl-3-(neopentyl)-1,2-benzisoxazol-6-yl]oxy}propyl)pyrrolidine-2,5-dione | C(CC)C1=C(C=CC=2C(=NOC21)CC(C)(C)C)OCCCN2C(CCC2=O)=O | C22H30N2O4
